US07368578B2
To a mixture of 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazole-4-carbaldehyde (1.50 g), ethyl diethylphosphonoacetate (0.74 g) and N,N-dimethylformamide (30 mL) was added sodium hydride (60% in oil, 0.14 g) at room temperature, and the mixture was stirred at the same temperature for 15 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give ethyl (2E)-3-{1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazol-4-yl}-2-propenoate as colorless crystals (1.50 g, yield 88%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 147-148° C.

reactant | 1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazole-4-carbaldehyde | 1.50 g | C(C1=CC=CC=C1)N1N=C(C(=C1)C=O)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C28H25N3O6
reactant | ethyl diethylphosphonoacetate | 0.74 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.14 g | [H-].[Na+]
solvent | water | O | H2O
product | ethyl (2E)-3-{1-benzyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazol-4-yl}-2-propenoate | 1.50 g, yield 88% | C(C1=CC=CC=C1)N1N=C(C(=C1)/C=C/C(=O)OCC)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C32H31N3O7
